US08420655B2
To a solution of 5-bromo-2-fluorobenzaldehyde (200 mg, 0.99 mmol) in DMF (5 mL) and H2O (1 mL) are added 1,5-dimethyl-1H-pyrazole-4-boronic acid pinacol ester (328 mg, 1.5 mmol), Pd(PPh3)4 (113 mg, 0.099 mmol) and K2CO3 (204 mg, 1.5 mmol) at room temperature. The solution is heated to 100° C. for 1 hour in a microwave reactor. The solution is cooled down and 3-mercaptopropyl-functionalized silica gel (500 mg) is added. The solution is stirred for 15 minutes and is filtered. The filtrate is washed with H2O (10 mL) and is extracted with EtOAc (3×10 mL). The combined organic layer is dried with MgSO4 (500 mg) and is filtered. The filtrate is concentrated and the residue is purified by silica gel flash chromatography with 20% EtOAc in Hepthane as the eluent to afford 5-(1,5-dimethyl-1H-pyrazol-4-yl)-2-fluoro-benzaldehyde (160 mg, 74%).

reactant | 5-bromo-2-fluorobenzaldehyde | 0.99 mmol, 200 mg | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | 1,5-dimethyl-1H-pyrazole-4-boronic acid pinacol ester | 1.5 mmol, 328 mg | CN1N=CC(=C1C)B1OC(C)(C)C(C)(C)O1 | C11H19BN2O2
reactant | K2CO3 | 1.5 mmol, 204 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | H2O | 1 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.099 mmol, 113 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(1,5-dimethyl-1H-pyrazol-4-yl)-2-fluoro-benzaldehyde | 160 mg, 74% | CN1N=CC(=C1C)C=1C=CC(=C(C=O)C1)F | C12H11FN2O
